Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
NSTEMI
 
Major Surgical or Invasive Procedure:
Cardiac catheterization
 
History of Present Illness:
Patient is an ___ gentleman with a ___ CAD c/b MI in 
___ and ___ s/p CABG in ___ and DES in ___, on plavix, and 
Afib on Coumadin, is transferred from ___ for management of 
acute MI. Patient woke up this morning at 03:45 and felt 
pressure and pain in his chest. He took PRN nitroglycerin x3 
with relief. He then awoke one hour later with increased chest 
pressure and pain so had his daughter take him to the ___ 
___. At the OSH ___ he was found to have a trop-I of 0.___hanges in his lateral EKG. He was initiated on a 
nitro and heparin drip and transferred to ___ for evaluation 
for catheterization. 

Patient reports that his chest pressure has significantly 
improved on the nitro drip. He denies shortness of breath, 
lightheadedness, dizziness, or palpitations. Of note, patient 
had an MI in 1990s with triple bypass at the time and was chest 
pain free until ___ when he developed a second MI and a stent 
was placed. Since his stent placement in ___ patient sometimes 
has required SL nitroglycerin approximately once a year for 
episodes of chest pressure that are not related to activity. He 
does not report recent worsening SOB or intolerance to his 
normal daily activities. The patient had a similar episode of 
chest pressure and he went to the ___ and was discovered to be in 
Afib with RVR, was given metoprolol and sent home. 

In the ___ initial vitals were: 97.8F HR56 bp134/64 RR18 98% RA  
EKG: Not obtained
Labs/studies notable for: Trop-T 0.06, MB 5; INR 3.2
Exam notable for:
- Irregular rhythm, holosystolic murmur heard best at right 
sternal border 
- Breathing comfortably, lung sounds normal, no crackles  
Patient was given:  
___ 15:05 IV Heparin 
___ 15:05 IV DRIP Nitroglycerin (0.35-3.5 mcg/kg/min 
ordered)
___ 17:55 PO/NG Cyclobenzaprine 10 mg ___   

On the floor, patient was hemodynamically stable, afebrile 97.7F 
bp130/75, weight 85.5kg on the IV nitro gtt and IV heparin gtt. 
Currently denies any CP, sob, diaphoresis, heart palpitations.

REVIEW OF SYSTEMS: As per HPI. 10-point ROS otherwise negative.
Ambulates with a cane. Able to walk up ___ flights of stairs 
before becoming short of breath. Walks with a cane.
Decreased hearing, L>R.
 
Past Medical History:
-CAD c/b MI s/p 5v-CABG ___: LIMA-LAD-atretic, SVG-D1-95% s/p 
DES, SVG-OM1-CTO, SVG-OM2,SVG-RPLV-RPDA-CTO, native LAD-CTO, mod 
OM1/2, severe distal RCA), ___ (___)
-pAF (CHA2DS2-VASc score of 6)
-HTN 
-HLD
-TIA (___)
-PAD (AAA s/p stent ___, carotid, SMA, celiac, renal artery) 
-AS  
 
Social History:
___
Family History:
Brother - had PPM placed, unknown reason 
 
Physical Exam:
ADMISSION:
VS: 97.7F, 130/75 bp, HR ___, mid90s O2sat on RA
Weight on admission= 85.5kg  
GENERAL: Awake, alert, in no acute distress, resting comfortably 
in bed
HEENT: NC/AT, PERRLA, clear conjunctiva b/l, MMM.
Neck: Supple with JVP approx. 10 cm.
Heart: RRR, S1, S2, ___ blowing holosystolic murmur best heard 
at the RUSB without radiation to the carotids, and heard over 
the precordium
Lungs: CTAB, no wheezes
Abdomen: Soft, +BS, non-distended, non-tender to palpation in 
all four quadrants
Extremities: Warm, no edema, 2+ peripheral pulses
Skin: Dry, flaky skin on bilateral ___. No lesions or rashes.
Pulses: Distal pulses palpable and symmetric.

DISCHARGE:
No corneal reflex
No heart sounds
No lung sounds
No withdrawal to painful stimuli

 
Pertinent Results:
ADMISSION:
___ 02:35PM   WBC-5.6 RBC-3.24* HGB-11.0* HCT-32.7* 
MCV-101* MCH-34.0* MCHC-33.6 RDW-16.9* RDWSD-63.3*
___ 03:18PM   ___ PTT-129.2* ___
___ 02:35PM   GLUCOSE-94 UREA N-19 CREAT-1.0 SODIUM-139 
POTASSIUM-4.8 CHLORIDE-104 TOTAL CO2-23 ANION GAP-17

PERTINENT:
___ 09:41PM BLOOD CK-MB-5 cTropnT-0.09*
___ 06:05AM BLOOD CK-MB-13* cTropnT-0.21*
___ 02:50PM BLOOD CK-MB-34* cTropnT-0.46*
___ 12:07AM BLOOD CK-MB-21* cTropnT-0.47*
___ 04:34AM BLOOD CK-MB-47* MB Indx-11.2* cTropnT-0.74*
___ 08:30PM BLOOD CK-MB-225* cTropnT-2.84*
___ 03:31AM BLOOD CK-MB-196* cTropnT-4.57*
___ 11:25AM BLOOD CK-MB-163* cTropnT-7.79*

DISCHARGE:
___ 05:57AM BLOOD WBC-13.8* RBC-2.81* Hgb-9.5* Hct-28.4* 
MCV-101* MCH-33.8* MCHC-33.5 RDW-17.2* RDWSD-64.4* Plt ___
___ 05:57AM BLOOD ___ PTT-95.6* ___
___ 05:57AM BLOOD Glucose-110* UreaN-62* Creat-2.6* Na-133 
K-4.5 Cl-98 HCO3-20* AnGap-20
___ 05:57AM BLOOD ALT-539* AST-514* AlkPhos-79 TotBili-1.7*
___ 05:57AM BLOOD CK-MB-85* cTropnT-8.32*
___ 05:57AM BLOOD Calcium-8.0* Phos-3.8 Mg-2.2
___ 01:11PM BLOOD Type-ART pO2-93 pCO2-32* pH-7.15* 
calTCO2-12* Base XS--16
___ 01:11PM BLOOD Lactate-10.3*

IMAGING:
-TTE (___):
The left atrium is elongated. There is moderate symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is mildly 
depressed (LVEF= 45 %) with septal/apical septal hypokinesis 
suggested. There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The ascending 
aorta is mildly dilated. The aortic valve leaflets are 
moderately thickened. There is moderate aortic valve stenosis 
(valve area 1.0-1.2cm2). Trace aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. There is moderate pulmonary artery systolic 
hypertension. There is no pericardial effusion
-Cardiac catheterization (___):
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is free of significant disease.
* Left Anterior Descending
The LAD is occluded after D1.
The ___ Diagonal is free of significant disease.
* Circumflex
The Circumflex has origin 50-60% stenosis and mid diffuse 70%.
* Right Coronary Artery
The RCA is a large vessel with diffuse proximal 50% stenosis and 
distal focal 70% stenosis.
SVG to presumed OM is occluded at ostium.
SVG to presumed D3 is occluded at ostium.
Impressions:
1. Severe 3 vessel CAD with occluded SVGs to OM and D3 as well 
as previously reported atretic LIMA.
Recommendations
1. Heart team discussion for strategy for AVR and possible 
revascularization. Unable to consider PCI
today due to uncertain target and increasing patient agitation 
demanding procedure be terminated.
-CXR (___):
IMPRESSION: No previous images.  The cardiac silhouette is 
enlarged in this patient with intact midline sternal wires and 
clips indicating previous CABG procedure.  There is moderate 
pulmonary edema with bilateral pleural effusions and compressive 
atelectasis at the bases. 
-CXR (___):
IMPRESSION: In comparison with study of ___, this and 
placement of right subclavian PICC line that extends to the 
lower SVC. Continued enlargement of the cardiac silhouette with 
pulmonary edema and 
worsening bilateral pleural effusions with compressive 
atelectasis at the 
bases. 

MICRO:
__________________________________________________________
___ 10:19 pm BLOOD CULTURE      Source: Line-PICC. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 7:00 pm URINE

   URINE CULTURE (Pending): 

___ 05:57AM BLOOD CK-MB-85* cTropnT-8.32*
 
Brief Hospital Course:
___ M PMHx CAD c/b MI s/p CABG (___) and PCI (___), pAF on 
Coumadin with h/o TIA, AAA s/p stenting (___), PAD c/b 
carotid/SMA/iliac/renal artery disease, moderate-severe AS who 
presented on ___ with chest pain and dyspnea found to have 
NSTEMI with hospital course complicated by cardiogenic shock ___ 
severe aortic stenosis, atrial fibrillation with RVR, and 
hypoxic respiratory failure. Following acute decompensation, the 
patient and his family opted to forgo invasive intervention and 
he expired on ___ in the cardiac intensive care unit. 

Summary of hospital course:
#ERROR!

Mr. ___ presented to ___ as a transfer from OSH on 
___ in the setting of chest pain with exertion and at rest 
found to elevated troponins and dynamic ECGs changes consistent 
with NSTEMI. He was transferred to ___ for further 
intervention. He was started on ACS treatment, including 
aspirin, Plavix, atorvastatin, and metoprolol. In the setting of 
ongoing chest pain, he was started on a nitro gtt. He was taken 
emergently for cath; however in the setting of elevated INR and 
complex peripheral vascular disease the procedure was deferred 
and he was transferred to the CCU for ongoing management. He 
continued to have chest pain with uptrending cardiac enzymes and 
dynamic ECG changes, prompting uptitration of nitro gtt. A TTE 
was obtained which showed severe aortic stenosis. He was taken 
for catheterization on ___, notable for diffuse disease not 
amenable to intervention. His hospital course was complicated by 
atrial fibrillation with RVR and he was started on an uptitrated 
dose of metoprolol; however following his tachycardia he 
developed progressive shortness of breath, hypoxia, and 
uptrending lactate. Concern for decompensation of aortic 
stenosis in setting of worsening ischemia. He received diuresis 
and afterload reduction, however he continued to decompensate 
with worsening hypoxic respiratory failure, chest pain, 
hypotension, and altered mental status. He was placed on BiPAP 
without improvement in his respiratory status and pressor 
therapy was started. In the setting of need for immediate 
aggressive intervention, the patient's family opted to 
transition his care to DNR/DNI. He expired soon after on ___.

TRANSITIONAL ISSUES:
# CODE: DNR/DNI
# CONTACT: HCP - ___ (daughter), ___ ___ 
___ (daughter), ___  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Clopidogrel 75 mg PO DAILY 
3. Ferrous Sulfate 325 mg PO DAILY 
4. Warfarin 4.5 mg PO DAILY 
5. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
6. Cyclobenzaprine 10 mg PO DAILY:PRN muscle spasms 
7. Metoprolol Succinate XL 25 mg PO EVERY OTHER DAY Atrial 
fibrillation with RVR 
8. HYDROcodone-Acetaminophen (5mg-325mg) 2 TAB PO DAILY:PRN Back 
pain 

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Non-ST segment myocardial infarction
Aortic stenosis
Atrial fibrillation 
Cardiogenic shock
 
Discharge Condition:
Expired
 
Discharge Instructions:
N/A
 
Followup Instructions:
___